datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:14])[H:15])[H:13])[C:6]([C:7]([C:8]([H:18])([H:19])[H:20])[C:9]#[C:10][H:21])([H:16])[H:17])[H:12])[H:11]>>[C:0](#[C:1][C:2]1([H:12])[C:3]([C:4](=[C:5]([H:14])[H:15])[H:13])[C:6]([H:16])([H:17])[C:7]1([C:8]([H:18])([H:19])[H:20])[C:9]#[C:10][H:21])[H:11],143.971
[C:0]1([H:6])[C:1]([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C:4]([H:11])([H:12])[C:5]1([H:13])[H:14]>>[C:0]1([H:6])=[C:1]([H:8])[C:2]([H:9])=[C:3]([H:10])[C:4]([H:11])([H:12])[C:5]1([H:13])[H:14].[H:7],138.624288
[C:0](=[C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])[H:9].[C:16]([c:17]1[c:18]([H:25])[c:19]([H:26])[c:20]([H:27])[c:21]([H:28])[c:22]1[H:29])([H:23])[H:24]>>[C:0]([C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])([H:10])[C:16]([c:17]1[c:18]([H:25])[c:19]([H:26])[c:20]([H:27])[c:21]([H:28])[c:22]1[H:29])([H:23])[H:24])([H:8])[H:9],52.3
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:12])([H:13])[H:14])[C:5]([C:6]([C:7]([H:17])([H:18])[H:19])[C:8](=[C:9]([H:21])[H:22])[H:20])([H:15])[H:16])[H:11])[H:10]>>[C:0](#[C:1][C:2]1([H:11])[C:3]([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[C:6]1([C:7]([H:17])([H:18])[H:19])[C:8](=[C:9]([H:21])[H:22])[H:20])[H:10],167.569
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[C:7]([C:8]([S:9][H:19])[c:10]1[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]1[H:24])([H:16])([H:17])[H:18]>>[C:0]([C:1](=[S:2])[H:6])([H:4])[H:5].[H:3][C:8]([C:7]([H:16])([H:17])[H:18])([S:9][H:19])[c:10]1[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]1[H:24],68.1992
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12]1([H:20])([H:21])[C:13]([H:22])([H:23])[C:14]2([H:24])[C:15]([H:25])([H:26])[C:16]([H:27])([H:28])[C:17]([H:29])([H:30])[C:18]2([H:31])[C:19]1([H:32])[H:33]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[H:24])[H:5].[C:12]1([H:20])([H:21])[C:13]([H:22])([H:23])[C:14]2[C:15]([H:25])([H:26])[C:16]([H:27])([H:28])[C:17]([H:29])([H:30])[C:18]2([H:31])[C:19]1([H:32])[H:33],53.1368
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:14])[H:15])[H:13])[C:6]([C:7]([C:8]([C:9]([H:20])([H:21])[H:22])[C:10]([H:23])([H:24])[H:25])([H:18])[H:19])([H:16])[H:17])[H:12])[H:11]>>[C:0](#[C:1][C:2]1([H:12])[C:3]([C:4](=[C:5]([H:14])[H:15])[H:13])[C:6]([H:16])([H:17])[C:7]([H:18])([H:19])[C:8]1([C:9]([H:20])([H:21])[H:22])[C:10]([H:23])([H:24])[H:25])[H:11],58.8689
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:11])[H:10])([H:8])[H:9].[C:18]([H:19])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])([C:6](=[C:7]([H:16])[H:17])[H:15])[C:18]([H:19])([H:20])[H:21])[H:11])[H:10])([H:8])[H:9],21.2129
[C:0](#[C:1][C:2]([S:3][H:6])[H:5])[H:4].[S:7]([S:8][H:10])[H:9]>>[C:0](#[C:1][C:2]([S:3][H:6])([H:5])[H:9])[H:4].[S:7][S:8][H:10],9.6232
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[H:9].[C:19]([C:20]([C:21]([H:31])([H:32])[H:33])[c:22]1[c:23]([H:34])[c:24]([H:35])[c:25]([H:36])[c:26]([H:37])[c:27]1[H:38])([H:28])([H:29])[H:30]>>[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[C:20]([C:19]([H:28])([H:29])[H:30])([C:21]([H:31])([H:32])[H:33])[c:22]1[c:23]([H:34])[c:24]([H:35])[c:25]([H:36])[c:26]([H:37])[c:27]1[H:38])[H:9],25.9826
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5](=[C:6]([H:18])[H:19])[H:17])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5](=[C:6]([H:18])[H:19])[H:17])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:7])([H:8])[H:15],27.3215
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([H:10])([H:11])[H:12])([H:4])([H:5])[H:6].[S:13]=[C:14]([S:15][H:17])[H:16]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([C:3]([H:10])([H:11])[H:12])[H:16])([H:4])([H:5])[H:6].[S:13]=[C:14][S:15][H:17],76.1906
[C:0](#[C:1][C:2]([C:3](=[C:4]([C:5]([C:6](=[C:7]([H:15])[H:16])[H:14])([H:12])[H:13])[H:11])[H:10])[H:9])[H:8]>>[C:0](#[C:1][C:2]1([H:9])[C:3]([H:10])=[C:4]([H:11])[C:5]([H:12])([H:13])[C:6]([H:14])[C:7]1([H:15])[H:16])[H:8],114.683
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[S:12]([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[H:13])[H:5].[S:12][H:14],19.2464
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]#[C:5][H:10])[H:6].[C:11]([C:12]([C:13]([H:19])([H:20])[H:21])([S:14][H:22])[H:18])([H:15])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]#[C:5][H:10])[H:18])[H:6].[C:11]([C:12]([C:13]([H:19])([H:20])[H:21])[S:14][H:22])([H:15])([H:16])[H:17],41.4216
